US06723722B1
4-(6-Chloronaphthalene-2-sulfonyl)-1-[1-(4-pyridyl)-4-piperidinylamino]-2-piperazinone
A solution of 4-(6-chloronaphthalene-2-sulfonyl)-1-[1-(4-pyridyl)-4-piperidinylideneamino]-2-piperazinone (120 mg) in trifluoroacetic acid (1 ml) was combined with triethylsilane (60 mg) and stirred at 50° C. for 4 hours. The reaction mixture was concentrated and the residue was combined with an ice-cooled 1 N aqueous solution of sodium hydroxide, extracted with dichloromethane, dried and then concentrated. The residue obtained was purified by a column chromatography (dichloromethane: 10% aqueous ammonia-containing methanol=20:1) and crystallized from acetone to obtain the title compound (88 mg) as colorless crystals.

reactant | 4-(6-chloronaphthalene-2-sulfonyl)-1-[1-(4-pyridyl)-4-piperidinylideneamino]-2-piperazinone | 120 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)N=C1CCN(CC1)C1=CC=NC=C1)=O | C24H24ClN5O3S
reactant | triethylsilane | 60 mg | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(6-Chloronaphthalene-2-sulfonyl)-1-[1-(4-pyridyl)-4-piperidinylamino]-2-piperazinone | 88 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)NC1CCN(CC1)C1=CC=NC=C1)=O | C24H26ClN5O3S
